US07176205B2
b) 2-Methyl-6′-(4-methyl-piperazin-1-yl)-[3,4′]bipyridinyl-3′-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide
A mixture of 0.21 g (0.44 mmol) 6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide and 1.0 ml (9.0 mmol) 1-methylpiperazine was heated at 120° C. for 2 h. After cooling to room temperature the mixture was diluted with dichloromethane and washed with water. The aqueous layer was extracted with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated in vacuo to give 0.25 g of crude product. Flash chromatography gave 0.17 g (70%) of the title compound. MS m/e (%): 552 (M+H+, 100)

reactant | 6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.44 mmol, 0.21 g | FC(C=1C=C(CN(C(=O)C=2C=NC(=CC2C=2C(=NC=CC2)C)Cl)C)C=C(C1)C(F)(F)F)(F)F | C22H16ClF6N3O
reactant | 1-methylpiperazine | 9.0 mmol, 1.0 ml | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Methyl-6′-(4-methyl-piperazin-1-yl)-[3,4′]bipyridinyl-3′-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.17 g, 70% | FC(C=1C=C(CN(C(=O)C=2C=NC(=CC2C=2C(=NC=CC2)C)N2CCN(CC2)C)C)C=C(C1)C(F)(F)F)(F)F | C27H27F6N5O
